US06348478B1
2,2,2-trifluoro-N-(2-(3-methoxyphenyl)ethyl)ethanamide
2.0 g of 3-methoxyphenylethylamine was dissolved in DMF. While the solution was cooled at 0° C., 2.24 ml of trifluoroacetic anhydride was dropwisely added to the solution in the atmosphere of nitrogen. The mixture was further mixed with 2.0 ml of triethylamine, returned to room temperature and then as such stirred overnight. The obtained solution was poured on the cooled mixture of a saturated aqueous solution of sodium bicarbonate with ethyl acetate to stop the reaction. The obtained organic layer was separated, washed with a saturated aqueous solution of ammonium chloride and with a saturated aqueous solution of sodium chloride, and dried over sodium sulfate. The solvent was distilled away from the solution. The residue was purified by silica gel chromatography to obtain 2.97 g (yield: 91%) of the title compound.

reactant | 3-methoxyphenylethylamine | 2.0 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | trifluoroacetic anhydride | 2.24 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2,2-trifluoro-N-(2-(3-methoxyphenyl)ethyl)ethanamide | 2.97 g, yield: 91% | FC(C(=O)NCCC1=CC(=CC=C1)OC)(F)F | C11H12F3NO2
